US07893056B2
N,N-Dimethyl-2-[1-(phenylmethyl)-3-pyrrolidinyl]-2-propanamine (2.089 g, 8.47 mmol) was dissolved in a mixture of MeOH (50 mL) and 1N HCl (18.65 mL, 18.65 mmol), degassed and placed under argon. 10% Pd/C (625 mg) was added, and the contents were thoroughly degassed and placed under a hydrogen balloon for 2 h. The contents were then degassed, and the Pd/C was removed by filtration through a fiberglass filter, washing with MeOH. The filtrate was concentrated in vacuo to provide pure N,N-dimethyl-2-(3-pyrrolidinyl)-2-propanamine hydrochloride (1.245 g, 76%). LCMS: (M+H)+: 157.2.

reactant | N,N-Dimethyl-2-[1-(phenylmethyl)-3-pyrrolidinyl]-2-propanamine | 8.47 mmol, 2.089 g | CN(C(C)(C)C1CN(CC1)CC1=CC=CC=C1)C | C16H26N2
reactant | HCl | 18.65 mmol, 1N, 18.65 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | N,N-dimethyl-2-(3-pyrrolidinyl)-2-propanamine hydrochloride | 1.245 g, 76% | Cl.CN(C(C)(C)C1CNCC1)C | InChI=1S/C9H20N2.ClH/c1-9(2,11(3)4)8-5-6-10-7-8;/h8,10H,5-7H2,1-4H3;1H
